US03984474
A. 4β,5-Epoxy-3-androstanone
4-Androstene-3-one (4.3g) is dissolved in 300ml of methanol and cooled to 3° C in an ice-water bath. To the cooled mixture is added 20ml of 30% hydrogen peroxide and 26ml of 4N sodium hydroxide solution simultaneously from 2 dropping funnels. The addition is carried out in a nitrogen atmosphere with stirring. The mixture is allowed to warm to room temperature and stirring is continued for an additional hour. The mixture is diluted with 4 liters of water and extracted with methylene chloride. The organic layer is dried over sodium sulfate and concentrated to yield 3.0g of the title compound.

reactant | 4-Androstene-3-one | 4.3g | C[C@@]12CCC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C19H28O
reactant | hydrogen peroxide | 20ml | OO | H2O2
reactant | sodium hydroxide | 4N, 26ml | [OH-].[Na+]
solvent | methanol | 300ml | CO | CH4O
solvent | water | 4 liters | O | H2O
product | 4β,5-Epoxy-3-androstanone | 3.0g | O1[C@@H]2C13CC[C@H]1[C@@H]4CCC[C@@]4(C)CC[C@@H]1[C@]3(CCC2=O)C | C19H28O2
